US07700331B2
From the obtained ethyl 8-methylnonanoate, 19.20 g was dissolved in ethanol (72.0 ml) and 2M NaOH aqueous solution (72.0 ml) was slowly added at 0° C. (ice bath). The mixture was heated with stirring using an oil bath at 60° C. for 1 hour, the reaction vessel was returned to room temperature and ethanol was evaporated under reduced pressure. 2M NaOH (30 ml) and water (30 ml) were added to the solution, and the solution was washed with tert-butyl methyl ether (100 ml). The aqueous layer was washed with tert-butyl methyl ether (100 ml) once again. The aqueous layer was carefully acidified with 2M HCl aqueous solution (150 ml), and the mixture was extracted twice with heptane (150 ml). The combined heptane layer was washed with water (100 ml) and then saturated brine (100 ml), dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give 8-methylnonanoic acid (15.9 g, crude yield 96.6%) as a crude product of a pale-yellow oil. As a result of the GCMS analysis, it contained structurally unidentified impurities A (0.01%), B (0.03%), C (0.04%), and D (0.07%), and the purity of 8-methylnonanoic acid was 99.6%.

reactant | ethyl 8-methylnonanoate | CC(CCCCCCC(=O)OCC)C | C12H24O2
reactant | NaOH | 2M, 72.0 ml | [OH-].[Na+]
solvent | ethanol | 72.0 ml | C(C)O | C2H6O
product | 8-methylnonanoic acid | 15.9 g | CC(CCCCCCC(=O)O)C | C10H20O2
